US05990105
1.76 g (0.0044 mol) of 6-bromo-4-(4-nitrobenzenesulphonyl)-pyridine-2-carboxamide were suspended in 11 ml of dioxane/THF 1:1, treated with 1.34 ml (0.0096 mol) of triethylamine and cooled to 0° C. 0.69 ml (0.00496 mol) of trifluoroacetic anhydride was slowly added dropwise to this suspension and the mixture was left to warm to room temperature and stirred for 1 hr. The reaction mixture was partitioned in ethyl acetate and water and the organic phase was washed with water and sat. sodium chloride solution, dried over MgSO4, filtered and the filtrate was concentrated. The residue was chromatographed on silica gel with ethyl acetate/hexane 1:4. There were obtained 1.40 g (87%) of 6-bromo-4-(4-nitrobenzenesulphonyl)-pyridine-2-carbonitrile as yellowish crystals; m.p.: 158-160° C.

reactant | 6-bromo-4-(4-nitrobenzenesulphonyl)-pyridine-2-carboxamide | 0.0044 mol, 1.76 g | BrC1=CC(=CC(=N1)C(=O)N)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H8BrN3O5S
reactant | triethylamine | 0.0096 mol, 1.34 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.00496 mol, 0.69 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dioxane THF | 11 ml | O1CCOCC1.C1CCOC1
product | 6-bromo-4-(4-nitrobenzenesulphonyl)-pyridine-2-carbonitrile | 1.40 g, 87% | BrC1=CC(=CC(=N1)C#N)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H6BrN3O4S
